US04182769
1-(N,N-Diethylcarbamoyl)-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole
A mixture of 2.0 g (0.006 mole) of 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole and 10.0 g (0.074 mole) of diethylcarbamoyl chloride was heated at reflux for two hours. Excess diethylcarbamoyl chloride was removed under high vacuum. The residue was chromatographed on silica gel, eluting with toluene, to give 1.5 g of product, mp 108°-9° (from methylcyclohexane).

reactant | 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 0.006 mole, 2.0 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC(C(F)F)(F)F | C17H12F4N2S
reactant | diethylcarbamoyl chloride | 0.074 mole, 10.0 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
product | 1-(N,N-Diethylcarbamoyl)-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 1.5 g | C(C)N(C(=O)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SC(C(F)F)(F)F)CC | C22H21F4N3OS
